US04618616
(A) 2',4'-Dichloro-2-(1H-1,2,4-triazol-1-yl)propiophenone hydrochloride
Alkylation of 2',4'-dichloro-2-(1H-1,2,4-triazol-1-yl)acetophenone (8.64 g) with methyl iodide (5.27 g) in the presence of sodium hydride (as a 50% dispersion in oil, total weight of dispersion 1.78 g) in tetrahydrofuran (150 ml) at 0° over 2 hours, yielded the title compound which was isolated as a hydrochloride salt, m.p. 125°-129°, 3.17 g, (yield 34.8%).

reactant | 2',4'-dichloro-2-(1H-1,2,4-triazol-1-yl)acetophenone | 8.64 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
reactant | methyl iodide | 5.27 g | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2',4'-Dichloro-2-(1H-1,2,4-triazol-1-yl)propiophenone hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(C(C)N1N=CN=C1)=O | InChI=1S/C11H9Cl2N3O.ClH/c1-7(16-6-14-5-15-16)11(17)9-3-2-8(12)4-10(9)13;/h2-7H,1H3;1H
